US07202364B2
2,3,5,6-Tetrafluoro-4-bromoaniline (7.5 g, 30.7 mmol) is dissolved in DME (150 mL) and treated with 3-methoxyphenylboronic acid (4.7 g, 30.7 mmol), a catalytic amount of tetrakistriphenylphosphine palladium(0) (0.70 g, 0.6 mmol) and triphenylphosphine (0.66 g, 2.5 mmol). Potassium carbonate (8.5 μg in 50 mL of water) is added and the reaction mixture stirred and heated to 90° C. for 24 hours. After cooling to room temperature most of the DME is removed by rotary evaporator under high vacuum. The resulting material is partitioned between EtOAc (200 mL) and water (250 mL). The organic layer is washed with brine, dried (Na2SO4) and concentrated by rotary evaporator. The crude reaction product is purified by flash chromatography (9:1 hexanes/EtOAc, then 6:4 hexanes/EtOAC) to give 2,3,5,6-tetrafluoro-4-(3′-methoxyphenyl)aniline (m.p. 94–96° C.).

reactant | 2,3,5,6-Tetrafluoro-4-bromoaniline | 30.7 mmol, 7.5 g | FC1=C(N)C(=C(C(=C1F)Br)F)F | C6H2BrF4N
reactant | 3-methoxyphenylboronic acid | 30.7 mmol, 4.7 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | triphenylphosphine | 2.5 mmol, 0.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Potassium carbonate | 50 mL, 8.5 μg | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 150 mL | COCCOC | C4H10O2
product | 2,3,5,6-tetrafluoro-4-(3′-methoxyphenyl)aniline | FC1=C(N)C(=C(C(=C1F)C1=CC(=CC=C1)OC)F)F | C13H9F4NO
